US09399640B2
Step 1. 4-Bromo-3-fluoro-N-methyl-2-nitroaniline
A solution of N-(4-bromo-3-fluoro-2-nitrophenyl)-2,2,2-trifluoroacetamide (3.42 g, 10.3 mmol) and triphenylphosphine (3.79 g, 14.4 mmol) in tetrahydrofuran (31.0 mL) at 0° C. was treated with methanol (1.67 mL, 41.3 mmol) followed by dropwise addition of diisopropyl azodicarboxylate (2.84 mL, 14.4 mmol), and the resultant reaction mixture was stirred at RT for 2 h. The reaction mixture was quenched with water (10 mL), concentrated in vacuo to remove most of the THF. Water (200 mL) was added and the resultant mixture was extracted with ethyl acetate (200 mL). Layers were separated and the organic layer was washed with brine, dried with sodium sulfate, filtered, and concentrated to give the crude product. Purification by flash column chromatography (100% hexanes to 80% dichloromethane/hexanes) gave the desired product (2.46 g, 96%) as an orange solid. LCMS calculated for C7H7BrFN2O2 (M+H)+: m/z=249.0, 251.0. found: 248.9, 250.9.

reactant | N-(4-bromo-3-fluoro-2-nitrophenyl)-2,2,2-trifluoroacetamide | 10.3 mmol, 3.42 g | BrC1=C(C(=C(C=C1)NC(C(F)(F)F)=O)[N+](=O)[O-])F | C8H3BrF4N2O3
reactant | triphenylphosphine | 14.4 mmol, 3.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 41.3 mmol, 1.67 mL | CO | CH4O
reactant | diisopropyl azodicarboxylate | 14.4 mmol, 2.84 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 31.0 mL | O1CCCC1 | C4H8O
product | 4-Bromo-3-fluoro-N-methyl-2-nitroaniline | 2.46 g, 96% | BrC1=C(C(=C(NC)C=C1)[N+](=O)[O-])F | C7H6BrFN2O2
